*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXH200ARA470MH70G
*//   Date        : 2020/12/24
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXH200ARA470MH70G_20deg-C 1 2

C1 4 2 2.52e-05
C2 5 2 1.15e-05
C3 6 2 4.86e-06
R1 3 4 1.84e-02
R2 4 5 1.42e-01
R3 5 6 4.86e+00
L1 1 3 3.40e-09

.ENDS
